US03997557
A solution of 32,6 g (0.15 mole) of p-fluorophenacylbromide in 100 ml. of dry dimethylformamide is added dropwise to a cooled solution of 25 g (0.15 mole) of 1-pyrrolidino-1-cycloheptene in 100 ml. of dry dimethylformamide. After stirring at ambient temperature for 20 hours, and at 100° C. for 5 hours, 250 ml. of water are added, and the mixture is stirred for 3 hours. The reaction mixture is poured into 1500 ml. of water, extracted with chloroform, and the chloroform extract is washed with water and dried. Removal of the chloroform leaves 2-(p-fluorophenacyl)cycloheptanone as an oil. Infrared and nuclear magnetic resonance spectra confirm the above structure.

reactant | p-fluorophenacylbromide | 0.15 mole, 32,6 g | FC1=CC=C(C(CBr)=O)C=C1 | C8H6BrFO
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | 1-pyrrolidino-1-cycloheptene | 0.15 mole, 25 g | N1(CCCC1)C1=CCCCCC1 | C11H19N
solvent | water | O | H2O
product | 2-(p-fluorophenacyl)cycloheptanone | FC1=CC=C(C(CC2C(CCCCC2)=O)=O)C=C1 | C15H17FO2
